**** tran2 chebyshevbpf test #2 *****

.tran2 tstop=40us tstep=1ns out_steps=4000

vsource:vin 1 0 vac=1.0 f=1.5e6 

R:Rin1 1 2 r=50
Chebyshevbpf:b1 2 0 3 n=5 f0=1e6 bw=400e3 z0=50 ripple=1
R:Rout1 3 0 r=50

.options gnuplot
.options preample1="set term x11 font 'helvetica,13';
set title 'Chebyshev Filter Transient Response'; set xlabel 'TIME (microseconds)'; 
set ylabel 'Voltage (V)"
.out plot term 3 vt 1e6 scalex preample1 in "chebyshevbpf.tran.out2"

.end






